US07598397B2
To a solution of 2-Benzyloxy-6-nitro-phenylamine (I-107, 1.52 g, 0.0062 mol) in acetic anhydride (1.27 g, 0.0125 mol), 4 drops of conc. H2SO4 was added at room temperature and stirred for one minute and then the reaction flak was immersed in an oil bath maintained at 90° C. After 2 minutes, the solidified reaction mixture was taken in water (20 mL) and filtered the solid. Solid was further washed with water (20 mL×2) and dried under high vacuum to afford N-(2-benzyloxy-6-nitro-phenyl)acetamide, I-108 (1.59 g).

reactant | 2-Benzyloxy-6-nitro-phenylamine | 0.0062 mol, 1.52 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)[N+](=O)[O-])N | C13H12N2O3
reactant | acetic anhydride | 0.0125 mol, 1.27 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | H2SO4 | 4 drops | OS(=O)(=O)O | H2O4S
solvent | water | 20 mL | O | H2O
product | N-(2-benzyloxy-6-nitro-phenyl)acetamide | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)[N+](=O)[O-])NC(C)=O | C15H14N2O4
